US07820654B2
Step (i). Synthesis of N-[4-chloro-6-(4-ethoxy-phenyl)-pyrimidin-2-yl]-formamide
A mixture of compound 4-chloro-6-(4-ethoxy-phenyl)-pyrimidin-2-ylamine (0.4 g, 1.6 mmol) and acetic anhydride (0.98 g, 9.61 mmol) was stirred at 80° C. for 12 hours. After completion the reaction mixture was poured into cold water (50 mL) and stirred for 10 to 15 minutes at temperature in the range of 20-40° C. The mixture was extracted with dichloromethane, washed with water, dried over anhydrous sodium sulphate, and concentrated. The residue thus obtained was purified by column chromatography using ethyl acetate-petroleum ether to afford the desired compound. Yield: 71%.

reactant | 4-chloro-6-(4-ethoxy-phenyl)-pyrimidin-2-ylamine | 1.6 mmol, 0.4 g | ClC1=NC(=NC(=C1)C1=CC=C(C=C1)OCC)N | C12H12ClN3O
reactant | acetic anhydride | 9.61 mmol, 0.98 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 50 mL | O | H2O
product | N-[4-chloro-6-(4-ethoxy-phenyl)-pyrimidin-2-yl]-formamide | Yield: 71% | ClC1=NC(=NC(=C1)C1=CC=C(C=C1)OCC)NC=O | C13H12ClN3O2
